US07968538B2
t-Butyl 4-(5-fluoro-2-nitrophenyl)piperazine-1-carboxylate
2,4-Difluoronitrobenzene (10.0 g, 62.9 mmol), t-butyl piperazine-1-carboxylate (11.7 g, 62.9 mmol) and N,N-diisopropylethylamine (8.10 g, 62.9 mmol) were stirred at room temperature in dry acetonitrile (100 mL) for 16 h. The solvent was removed by rotary evaporation and the residue was dissolved in dichloromethane and washed with water. The dichloromethane was removed by rotary evaporation to collect the title compound (19.0 g, 93%). 1H NMR (400 MHz, CDCl3): δ 7.91 (dd, 1H), 6.75 (m, 2H), 3.60 (m, 4H), 3.03 (m, 4H), 1.48 (s, 9H); MS (ESI) m/z: Calculated for C15H20FN3O4: 325.14; Observed: 348.1 (M++Na).

reactant | 2,4-Difluoronitrobenzene | 62.9 mmol, 10.0 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | t-butyl piperazine-1-carboxylate | 62.9 mmol, 11.7 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | N,N-diisopropylethylamine | 62.9 mmol, 8.10 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | t-Butyl 4-(5-fluoro-2-nitrophenyl)piperazine-1-carboxylate | FC=1C=CC(=C(C1)N1CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C15H20FN3O4
